US04021479
4-(2'-Nitro-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(2'-nitro-4-biphenylyl)-4-oxo-butyric acid. Yield: 62.5% of theory; m.p. 114°-115° C.; melting point of the cyclohexylamine salt; 170° C. (decomp.).

reactant | 4-(2'-nitro-4-biphenylyl)-4-oxo-butyric acid | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13NO5
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-(2'-Nitro-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 62.5% | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15NO5
